US07902372B2
Add a solution of {2-[4-(4-Amino-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester (1.2 g, 3.66 mmol) in dichloromethane (25 mL) dropwise to a solution of acetyl chloride (0.35 g, 4.50 mmol) in dichloromethane (125 mL) at room temperature. Upon complete addition of the amine, add triethylamine (0.74 g, 7.32 mmol) and a crystal of DMAP to the reaction and stirred at room temperature for 18 hours. Add an additional 65 uL of acetyl chloride to the reaction and stir an additional 2 hours. Pour the reaction into saturated aqueous sodium bicarbonate then extract with dichloromethane (3×100 mL). Dry the dichloromethane extracts over sodium chloride/magnesium sulfate, filter, then concentrate on a rotary evaporator to yield 1.3 g of the crude product. The crude product is purified by flash column chromatography on silica gel eluting with ethyl acetate and hexanes to yield {2-[4-(4-acetylamino-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester (1.2 g): 1H NMR (CDCl3, 300.00 MHz): 8.00 (s, 1H), 7.49 (d, 2H, J=8.8 Hz), 7.13 (d, 2H, J=8.4 Hz), 6.98-6.89 (m, 4H), 4.69 (s, 1H), 3.37 (d, 2H, J=6.2 Hz), 2.77 (t, 2H, J=7.0 Hz), 2.18 (s, 3H), 1.46 (s, 9H).

reactant | {2-[4-(4-Amino-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 3.66 mmol, 1.2 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OC1=CC=C(C=C1)N)=O | C19H24N2O3
reactant | acetyl chloride | 4.50 mmol, 0.35 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 7.32 mmol, 0.74 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 65 uL | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | {2-[4-(4-acetylamino-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 1.2 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OC1=CC=C(C=C1)NC(C)=O)=O | C21H26N2O4
